US08389520B2
(4-Methyl-1H-imidazol-1-yl)acetic acid ethyl ester
4.4 g (53.6 mmol) 4-methyl-1H-imidazole are initially introduced into 20.0 ml (17.4 g, 53.6 mmol) 21% strength sodium ethylate solution in ethanol and 6.5 ml (9.8 g, 58.9 mmol) ethyl bromoacetate are added. The reaction mixture is stirred at RT for 16 h. For working up, the solid which has precipitated out is filtered off, the residue on the filter is washed with ethanol and the filtrate is concentrated in vacuo. The residue is purified by column chromatography over silica gel (mobile phase: acetonitrile/water 9:1). The product is obtained as a 3:2 mixture of the two regioisomers and is further reacted as such.

reactant | 4-methyl-1H-imidazole | 53.6 mmol, 4.4 g | CC=1N=CNC1 | C4H6N2
reactant | sodium ethylate solution | CC[O-].[Na+]
reactant | ethyl bromoacetate | 58.9 mmol, 6.5 ml, 9.8 g | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | C(C)O | C2H6O
product | (4-Methyl-1H-imidazol-1-yl)acetic acid ethyl ester | C(C)OC(CN1C=NC(=C1)C)=O | C8H12N2O2
